US08557983B2
4-cyanopiperidine-1-carboxamide
A round bottom flask containing phosgene (20% wt in toluene, 3.16 mL) and dichloromethane (10 mL) was cooled with an ice bath. A solution of N-ethyl-N-isopropylpropan-2-amine (1.393 mL) and piperidine-4-carbonitrile (0.441 g) in dichloromethane (5 mL) was added via a syringe dropwise. The mixture was stirred at room temperature overnight and then concentrated to dryness. The residue was dissolved in methanol (10 mL) and 2 mL of 7 N NH3 in methanol. The mixture was stirred at 50° C. overnight. The mixture was concentrated and the residual solid was mixed with brine (5 mL) and extracted with ethyl acetate (8×25 mL). The organic solution was dried (MgSO4), filtered and concentrated. The crude material was purified on a silica gel column eluting with 5-10% methanol in CH2Cl2.

reactant | phosgene | 3.16 mL | C(=O)(Cl)Cl | CCl2O
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.393 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | piperidine-4-carbonitrile | 0.441 g | N1CCC(CC1)C#N | C6H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-cyanopiperidine-1-carboxamide | C(#N)C1CCN(CC1)C(=O)N | C7H11N3O
